US06660744B1
A mixture of 1-(4-bromophenyl)-3-methyl-5-phenyl-4,5-dihydro-1H-pyrazole (2.17 g, 0.00693 mol), diboron pinacol ester (2.11 g, 0.00832 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.170 g, 0.000207 mol) and potassium acetate (2.03 g, 0.0207 mol) in N,N-dimethylformamide (50 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. Dichloromethane (70 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (7:93) as mobile phase. The resulting fractions were concentrated, the residue was triturated in n-heptane and the precipitate collected by filtration to yield 3-methyl-5-phenyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4,5-dihydro-1H-pyrazole (1.00 g, 0.00278 mol) as a white solid.

reactant | 1-(4-bromophenyl)-3-methyl-5-phenyl-4,5-dihydro-1H-pyrazole | 0.00693 mol, 2.17 g | BrC1=CC=C(C=C1)N1N=C(CC1C1=CC=CC=C1)C | C16H15BrN2
reactant | diboron pinacol ester | 0.00832 mol, 2.11 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.000207 mol, 0.170 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0207 mol, 2.03 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-methyl-5-phenyl-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4,5-dihydro-1H-pyrazole | 0.00278 mol, 1.00 g | CC1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H27BN2O2
